US03974145
A mixture of 5 g of N1 -(p-methylbenzoyl)-3,4-ethylenedioxyphenylhydrazine hydrochloride and 30 g of levulinic acid was heated for 3 hours at 85° - 90°C. The reaction mixture was cooled to a room temperature, and poured into 200 ml of water. The crude product was recrystallized twice from ethyl acetate to give 1-(p-methylbenzoyl)-2-methyl-5,6-ethylenedioxy-3-indolylacetic acid having a melting point of 170° - 171°C.

reactant | N1 -(p-methylbenzoyl)-3,4-ethylenedioxyphenylhydrazine hydrochloride | 5 g | Cl.CC1=CC=C(C(=O)N(N)C2=CC3=C(C=C2)OCCO3)C=C1
reactant | levulinic acid | 30 g | C(CCC(=O)C)(=O)O | C5H8O3
solvent | water | 200 ml | O | H2O
product | 1-(p-methylbenzoyl)-2-methyl-5,6-ethylenedioxy-3-indolylacetic acid | CC1=CC=C(C(=O)N2C(=C(C3=CC4=C(C=C23)OCCO4)CC(=O)O)C)C=C1 | C21H19NO5
